### PR TITLE
feat(Data/List/Basic.lean): add `append_cancel_right_length`

### PR DESCRIPTION
**Pull request by b-reinke**
Upstreamed from the [EquationalTheories](https://github.com/teorth/equational_theories) project.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Basic.lean [hunk 1]
```diff
@@ -197,6 +197,14 @@ theorem append_right_injective (s : List α) : Injective fun t ↦ s ++ t :=
 theorem append_left_injective (t : List α) : Injective fun s ↦ s ++ t :=
   fun _ _ ↦ append_cancel_right
 
+theorem append_cancel_right_length {as bs bs' cs : List α}
+(eq_length : bs.length = bs'.length) (h : as ++ bs = cs ++ bs') : as = cs := by
+  match as, cs with
+  | [], []       => rfl
+  | [], c::cs    => have aux := congrArg length h; simp +arith [eq_length] at aux
+  | a::as, []    => have aux := congrArg length h; simp +arith [eq_length] at aux
```
Comment (Paul-Lez) [inline Mathlib/Data/List/Basic.lean:205]: Note that you can shorten two of the cases to single tactic calls
```suggestion
  | [], c::cs    => simpa +arith [eq_length] using congrArg length h
  | a::as, []    => simpa +arith [eq_length] using congrArg length h
```

File: Mathlib/Data/List/Basic.lean [hunk 2]
```diff
@@ -197,6 +197,14 @@ theorem append_right_injective (s : List α) : Injective fun t ↦ s ++ t :=
...
+  | a::as, c::cs => injection h with h₁ h₂; subst h₁; rw [append_cancel_right_length eq_length h₂]
```
Comment (Paul-Lez) [inline Mathlib/Data/List/Basic.lean:206]: Notice that this line can also be shortened to
```suggestion
rwa [head_eq_of_cons_eq h, append_cancel_right_length _ (tail_eq_of_cons_eq h)]
```
If you'd rather have two tactics to avoid squeezing everything into a less readable line, you can also get rid of the `subst` as follows
```
injection h with h₁ h₂
rw [h₁, append_cancel_right_length eq_length h₂]
```

File: Mathlib/Data/List/Basic.lean [hunk 3]
```diff
@@ -197,6 +197,14 @@ theorem append_right_injective (s : List α) : Injective fun t ↦ s ++ t :=
 theorem append_left_injective (t : List α) : Injective fun s ↦ s ++ t :=
   fun _ _ ↦ append_cancel_right
 
+theorem append_cancel_right_length {as bs bs' cs : List α}
+(eq_length : bs.length = bs'.length) (h : as ++ bs = cs ++ bs') : as = cs := by
```
Comment (Paul-Lez) [inline Mathlib/Data/List/Basic.lean:201]:
```suggestion
    (eq_length : bs.length = bs'.length) (h : as ++ bs = cs ++ bs') : as = cs := by
```
([the convention is to indent four spaces here](https://leanprover-community.github.io/contribute/style.html))

File: Mathlib/Data/List/Basic.lean [hunk 4]
```diff
@@ -197,6 +197,14 @@ theorem append_right_injective (s : List α) : Injective fun t ↦ s ++ t :=
 theorem append_left_injective (t : List α) : Injective fun s ↦ s ++ t :=
   fun _ _ ↦ append_cancel_right
 
+theorem append_cancel_right_length {as bs bs' cs : List α}
+    (eq_length : bs.length = bs'.length) (h : as ++ bs = cs ++ bs') : as = cs := by
```
Comment (urkud) [inline Mathlib/Data/List/Basic.lean:201]: Is it the same as https://leanprover-community.github.io/mathlib4_docs/Init/Data/List/Lemmas.html#List.append_inj_right%27 ?

Comment (b-reinke) [reply Mathlib/Data/List/Basic.lean:201]: Oh, you're right! I will close the PR then

Comment (b-reinke) [reply Mathlib/Data/List/Basic.lean:201]: Well, strictly speaking its [List.append_inj_left'](https://leanprover-community.github.io/mathlib4_docs/Init/Data/List/Lemmas.html#List.append_inj_left'), but its in Init anyway.
